US04346087
Into an apparatus similar to that in Example 1, were charged 230.1 g (1 mole) of N-octoxypropylethylenediamine and 116.1 g (1 mole) of methyl acetoacetate. At 140° to 145° C., 18 g of water and 32 g of ethanol were distilled off to obtain 4-octoxypropyl-7-methyl-3,6-dihydro-2H-1,4-diazepin-5-one.

reactant | N-octoxypropylethylenediamine | 1 mole, 230.1 g | C(CCCCCCC)OCCCNCCN | C13H30N2O
reactant | methyl acetoacetate | 1 mole, 116.1 g | C(CC(=O)C)(=O)OC | C5H8O3
product | 4-octoxypropyl-7-methyl-3,6-dihydro-2H-1,4-diazepin-5-one | C(CCCCCCC)OCCCN1CCN=C(CC1=O)C | C17H32N2O2
